US05496930
7.0 g (30 mmol) of tri-O-acetylglucal in 70 ml of 0.25M phosphate buffer (pH=7) are stirred with 7 g of lipase from Pseudomonas spec. (lipase P, from Amano Pharmaceutical Co., Ltd., Nagoya, Japan) (free or immobilized on SiO2) at room temperature. After the reaction is complete (about 5-7 h) the reusable enzyme is separated off. The desired 4,6-di-O-acetylglucal is obtained either by extraction of the aqueous solution with CHCl3 or ethyl acetate or after freeze-drying and subsequent taking up in organic solvents such as ethyl acetate and filtering off the insoluble concomitants, The 4,6-di-O-acetylglucal which results in about 90% yield can be used without further purification for further reactions.

reactant | tri-O-acetylglucal | 30 mmol, 7.0 g | C(C)(=O)O[C@@H]1C=CO[C@@H]([C@H]1OC(C)=O)COC(C)=O | C12H16O7
solvent | phosphate | 0.25M, 70 ml, pH=7 | P(=O)([O-])([O-])[O-]
product | 4,6-di-O-acetylglucal | about 90% yield | C(C)(=O)O[C@H]1[C@@H](C=CO[C@@H]1COC(C)=O)O | C10H14O6
